US08580841B2
Step D: Preparation of 4-(Chloromethyl)-1-cyclopentyl-2-(trifluoromethyl)benzene.
To (4-cyclopentyl-3-(trifluoromethyl)phenyl)methanol (1.21 g, 4.95 mmol) was added thionyl chloride (5.5 mL, 74.2 mmol). The mixture was heated at 50° C. for 2 h before it was allowed to cool to room temperature and stirred at room temperature overnight. The mixture was poured into an ice and stirred for 5 min before it was extracted with dichloromethane. The organic extract was washed with saturated aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound as an oil (1.16 g). 1H NMR (400 MHz, CDCl3) δ ppm 1.55-1.63 (m, 2H), 1.69-1.77 (m, 2H), 1.82-1.90 (m, 2H), 2.05-2.13 (m, 2H), 3.37 (quintet, J=8.59 Hz, 1H), 4.58 (s, 2H), 7.46 (d, J=8.00 Hz, 1H), 7.52 (d, J=8.00 Hz, 1H), 7.61 (d, J=1.52 Hz, 1H).

reactant | (4-cyclopentyl-3-(trifluoromethyl)phenyl)methanol | 4.95 mmol, 1.21 g | C1(CCCC1)C1=C(C=C(C=C1)CO)C(F)(F)F | C13H15F3O
reactant | thionyl chloride | 74.2 mmol, 5.5 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-(Chloromethyl)-1-cyclopentyl-2-(trifluoromethyl)benzene | 1.16 g | ClCC1=CC(=C(C=C1)C1CCCC1)C(F)(F)F | C13H14ClF3
